US05180742
Aluminum chloride (1.4 g, 0.01 mole) was added to a 1,2-dichloroethane solution (20 ml) of 2,3,5-trimethylhydroquinone (1.5 g, 0.01 mole) and the mixture was heated at 80° C. A 1,2-dichloroethane solution (10 ml) of 4-phenylbutyrolactone (1.6 g, 0.01 mole) was added dropwise to the mixed solution over the 2-hours period, and the reaction was carried out under the same conditions for further 18 hours. After cooling, 2N-hydrochloric acid (40 ml) was added to the reaction solution, followed by stirring for 10 minutes, and the reaction product was extracted with isopropyl ether. The organic layer was washed with water, dried and evaporated and the residue was dissolved in tetrahydrofuran (30 ml). A 10% aqueous solution (5 ml) of ferric chloride was added to the solution, followed by stirring at room temperature for 10 minutes, and the reaction product was extracted twice with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure, and the residue was chromatographed on a silica gel column, followed by elution with isopropyl ether to give 4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-4-phenylbutyric acid (1.2 g, 38%). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 36 to 38 were prepared.

reactant | Aluminum chloride | 0.01 mole, 1.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3,5-trimethylhydroquinone | 0.01 mole, 1.5 g | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | 4-phenylbutyrolactone | 0.01 mole, 1.6 g | C1(=CC=CC=C1)C1CCC(=O)O1 | C10H10O2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-4-phenylbutyric acid | 1.2 g, 38% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCC(=O)O)C1=CC=CC=C1 | C19H20O4
